US08039450B2
To a 40 mL scintillation vial containing 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzoic acid (77 mg, 0.28 mmol, 1.0 eq.) and CDI (101.3 mg, 0.62 mmol), 2.5 eq.) in DMF (3.0 mL) was added Ammonium carbonate (123.3 mg, 1.28 mmol, 4.5 eq.). The mixture was stirred at room temperature overnight. The mixture was treated with H2O (5 mL) and the layers were separated. The aqueous was extracted with EtOAc (2×5 mL), combined organic phase was washed with brine (10 mL), dried over MgSO4, filtered and the filtrate was concentrated under reduced pressure. The residue was applied to silica chromatography eluting with MeOH/DCM (0:100 to 10:90) to give 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzamide as a white solid. LCMS (m/z) 270 (M+H); 1H NMR (DMSO-d6) δ: 9.14 (s, 1H), 7.87-7.92 (m, 2H), 7.73 (d, J=7.8 Hz, 1H), 7.05 (d, J=8.8 Hz, 4H), 4.93 (s, 2H).

reactant | 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzoic acid | 0.28 mmol, 77 mg, 1.0 eq. | OB1OCC2=C1C=CC(=C2)OC2=CC=C(C(=O)O)C=C2 | C14H11BO5
reactant | CDI | 0.62 mmol, 101.3 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | Ammonium carbonate | 1.28 mmol, 123.3 mg, 4.5 eq. | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | H2O | 5 mL | O | H2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzamide | OB1OCC2=C1C=CC(=C2)OC2=CC=C(C(=O)N)C=C2 | C14H12BNO4
